US06852727B2
Step A: tert-Butyl 4-[2-oxo-2-(4-pyridinyl)ethyl]-2-pyridinylcarbamate
The 4-[2-phenyl-4-(4-pyridinyl)-1H-imidazol-5-yl]-2-pyridinamine (86 mg, 0.27 mmol) was dissolved in 1.5 mL water containing 0.1 mL conc. Sulfuric acid and was treated with NaNO2 (24 mg, 0.38 mmol) and stirred 60 minutes. Another 7 mg NaNO2 (0.01 mmol) was added and the reaction was heated over a steam bath for 5 min. then was cooled to r.t. The reaction was basified with sat. NaHCO3 and was extracted with ethyl acetate. The combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure to give a pale yellow solid which was triturated in ether to give 27 mg (31%) of the title compound as a pale yellow solid.

reactant | 4-[2-phenyl-4-(4-pyridinyl)-1H-imidazol-5-yl]-2-pyridinamine | 0.27 mmol, 86 mg | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=NC=C1)C1=CC(=NC=C1)N | C19H15N5
reactant | NaNO2 | 0.38 mmol, 24 mg | N(=O)[O-].[Na+]
reactant | NaNO2 | 0.01 mmol, 7 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | water | 1.5 mL | O | H2O
product | tert-Butyl 4-[2-oxo-2-(4-pyridinyl)ethyl]-2-pyridinylcarbamate | 27 mg, 31% | O=C(CC1=CC(=NC=C1)NC(OC(C)(C)C)=O)C1=CC=NC=C1 | C17H19N3O3
